US07504404B2
Step 1) 3-Methyl-5-(4-trifluoromethyl-phenyl)-pyridin-2-ylamine
Prepared as described in example C.32 (step 4) from commercially available 2-amino-5-bromo-3-methyl-pyridine (4.5 g, 24.1 mmol) and commercially available 4-trifluoromethyl-phenylboronic acid (5.03 g, 26.5 mmol). Obtained as an off-white solid (5.36 g, 88%). MS (ISP) 252.9 [(M+H)+]; mp 159° C.

reactant | 2-amino-5-bromo-3-methyl-pyridine | 24.1 mmol, 4.5 g | NC1=NC=C(C=C1C)Br | C6H7BrN2
reactant | 4-trifluoromethyl-phenylboronic acid | 26.5 mmol, 5.03 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 3-Methyl-5-(4-trifluoromethyl-phenyl)-pyridin-2-ylamine | 5.36 g, 88% | CC=1C(=NC=C(C1)C1=CC=C(C=C1)C(F)(F)F)N | C13H11F3N2
